US06867205B2
5-Aminomethyl-2-benzo[1,3]dioxol-5-yl-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine
The title compound, MS: m/e=388.2 (M+), was prepared from benzo[1,3]dioxole-5-carboxamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | benzo[1,3]dioxole-5-carboxamidine | O1COC2=C1C=CC(=C2)C(=N)N | C8H8N2O2
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-2-benzo[1,3]dioxol-5-yl-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)C1=CC2=C(OCO2)C=C1)N | C18H14Cl2N4O2
